US06468675B1
Synthesis of (1,5-bis(Phenyl-p-tolylamino)naphthalene
8 gram (0.05 mol) of 1,5-diamino naphthalene, 22 gram (0.11 mol) of iodobenzene, 17 gram (0.12 mol) of potassium carbonate, 0.4 gram of copper powder and 50 milliliter of nitrobenzene were introduced in a 100 milliliter three-necked flask for stirring at 200° C. for 30 hours. After the reaction, toluene was added, followed by filtration for removal of inorganic compounds. Toluene and nitrobenzene were removed by distillation in a reduced pressure ambient, and the remainder was subjected to separation refinement in a silica gel column using a 1:3 mixture solvent of toluene and ligroin, to prepare 10 gram of 1,5-bis(phenylamino)naphthalene. Thereafter, 6.2 gram (0.02 mol) of 1,5-bis(phenylamino)naphthalene, 11 gram (0.05 mol) of p-iodotoluene, 7 gram (0.05 mol) of potassium carbonate, 0.3 gram of copper powder and 50 milliliter of nitrobenzene were introduced in a 100 milliliter three-necked flask for stirring at 200° C. for 30 hours. After the reaction, toluene was added, followed by filtration for removal of inorganic compounds. Toluene and nitrobenzene were removed by distillation in a reduced pressure ambient, and the remainder was subjected to separation refinement in a silica gel column using a 1:3 mixture solvent of toluene and ligroin, to prepare 7 gram of 1,5-bis(phenyl-p-tolylamino)naphthalene.

reactant | 1,5-diamino naphthalene | 0.05 mol, 8 gram | NC1=CC=CC2=C(C=CC=C12)N | C10H10N2
reactant | iodobenzene | 0.11 mol, 22 gram | IC1=CC=CC=C1 | C6H5I
reactant | potassium carbonate | 0.12 mol, 17 gram | C([O-])([O-])=O.[K+].[K+]
reactant | nitrobenzene | 50 milliliter | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | 1,5-bis(phenylamino)naphthalene | 0.02 mol, 6.2 gram | C1(=CC=CC=C1)NC1=CC=CC2=C(C=CC=C12)NC1=CC=CC=C1 | C22H18N2
reactant | p-iodotoluene | 0.05 mol, 11 gram | IC1=CC=C(C=C1)C | C7H7I
reactant | potassium carbonate | 0.05 mol, 7 gram | C([O-])([O-])=O.[K+].[K+]
reactant | nitrobenzene | 50 milliliter | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | copper | 0.4 gram | [Cu] | Cu
catalyst | copper | 0.3 gram | [Cu] | Cu
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,5-bis(Phenyl-p-tolylamino)naphthalene | C1(=CC=CC=C1)N(C1=CC=CC2=C(C=CC=C12)N(C1=CC=C(C=C1)C)C1=CC=CC=C1)C1=CC=C(C=C1)C | C36H30N2
